### PR TITLE
[Merged by Bors] -  feat(MeasureTheory): add Lebesgue differentiation theorem for intervals

### PR DESCRIPTION
**Pull request by zhuyizheng**
Add the Lebesgue differentiation theorem for intervals. Part of originally planned #29092. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/Deriv/Slope.lean [hunk 1]
```diff
@@ -69,6 +69,13 @@ theorem hasDerivWithinAt_iff_tendsto_slope' (hs : x ∉ s) :
 theorem hasDerivAt_iff_tendsto_slope : HasDerivAt f f' x ↔ Tendsto (slope f x) (𝓝[≠] x) (𝓝 f') :=
   hasDerivAtFilter_iff_tendsto_slope
 
+theorem hasDerivAt_iff_tendsto_slope_left_right [LinearOrder 𝕜] : HasDerivAt f f' x ↔
+    Tendsto (slope f x) (𝓝[<] x) (𝓝 f') ∧ Tendsto (slope f x) (𝓝[>] x) (𝓝 f') := by
+  rw [hasDerivAt_iff_tendsto_slope]
+  simp only [tendsto_iff_comap]
+  rw [← Iio_union_Ioi, nhdsWithin_union]
+  exact sup_le_iff
```
Comment (themathqueen) [inline Mathlib/Analysis/Calculus/Deriv/Slope.lean]:
```suggestion
  simp [hasDerivAt_iff_tendsto_slope, ← Iio_union_Ioi, nhdsWithin_union]
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 2]
```diff
@@ -0,0 +1,108 @@
...
+open MeasureTheory Set Filter Function IsUnifLocDoublingMeasure
+
+open scoped Topology
+
+/-- The interval version of the *Lebesgue Differentiation Theorem*: if `f : ℝ → ℝ` is integrable and
+`c : ℝ`, then for almost every `x`, the derivative of `∫ (t : ℝ) in c..x, f t` at `x`
+is equal to `f x`. -/
+theorem Integrable.ae_eq_deriv_integral {f : ℝ → ℝ} (hf : Integrable f volume) (c : ℝ) :
+    ∀ᵐ x, HasDerivAt (fun x => ∫ (t : ℝ) in c..x, f t) (f x) x := by
+  have hg0 : IntegrableOn f Set.univ volume := by simpa
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: indices should use subscripts, e.g. hg\0

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 3]
```diff
@@ -0,0 +1,108 @@
...
+  have hg1 (x y : ℝ) : IntegrableOn f (Icc x y) volume := by
+    apply IntegrableOn.mono_set hg0; simp
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]:
```suggestion
  have hg1 (x y : ℝ) : IntegrableOn f (Icc x y) volume := by simp [IntegrableOn.mono_set hg0]
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 4]
```diff
@@ -0,0 +1,108 @@
...
+  have hg2 (x y : ℝ) : IntervalIntegrable f volume x y := by
+    unfold IntervalIntegrable; constructor <;> apply IntegrableOn.mono_set hg0 <;> simp
+  have hfL : LocallyIntegrable f (volume) := by
+    apply Integrable.locallyIntegrable; assumption
+  have LDT := VitaliFamily.ae_tendsto_average (vitaliFamily (volume : Measure ℝ) 1) hfL
+  have h1 {x0 y0 : ℝ} (hxy0 : x0 ≤ y0) :
+      ∫ (t : ℝ) in Ioc x0 y0, f t = ∫ (t : ℝ) in Icc x0 y0, f t := by
+    rw [fun (a b : ℝ) ↦ show a = b ↔ b - a = 0 by grind,
+        ← MeasureTheory.integral_diff (by simp) (by apply hg1) Ioc_subset_Icc_self]
+    simp [hxy0]
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: found by exact?
```suggestion
  have h1 {x0 y0 : ℝ} (hxy0 : x0 ≤ y0) :
      ∫ (t : ℝ) in Ioc x0 y0, f t = ∫ (t : ℝ) in Icc x0 y0, f t :=
    integral_Icc_eq_integral_Ioc.symm
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 5]
```diff
@@ -0,0 +1,108 @@
...
+    · filter_upwards [self_mem_nhdsWithin] with y hy
+      replace hy : y ≤ x := by rw [mem_Iio] at hy; linarith
+      simp only [slope, vsub_eq_sub, smul_eq_mul, average, MeasurableSet.univ,
+        Measure.restrict_apply, univ_inter, Real.volume_Icc, integral_smul_measure,
+        ENNReal.toReal_inv, sub_nonneg, hy, ENNReal.toReal_ofReal]
+      rw [intervalIntegral.integral_interval_sub_left (by apply hg2) (by apply hg2),
+          intervalIntegral.integral_of_ge hy,
+          h1 hy,
+          show (y - x)⁻¹ = -(x - y)⁻¹ by grind]
+      ring
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]:
```suggestion
      rw [intervalIntegral.integral_interval_sub_left (hg2 _ _) (hg2 _ _),
          intervalIntegral.integral_of_ge hy, h1 hy]
      grind
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 6]
```diff
@@ -0,0 +1,108 @@
...
+    apply MeasureTheory.IntegrableOn.integrable_of_forall_notMem_eq_zero (s := Ioc a b)
+    · rw [MeasureTheory.integrableOn_congr_fun (g := f) (by simp +contextual [g, EqOn]) (by simp)]
+      exact hf.left
+    · simp +contextual [g]
+  have hg2 := Integrable.ae_eq_deriv_integral hg1 c
+  have hg3 : ∀ x ∈ Ioc a b, f x = g x := by simp +contextual [g, ↓reduceIte]
+  have hg4 : ∀ (y z : ℝ), a ≤ y → z ≤ b → ∀ x ∈ Ioc y z, f x = g x := by
+    intro y z hy hz x hx
+    have : Ioc y z ⊆ Ioc a b := by gcongr
+    exact hg3 x (this hx)
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: Found by looking at the by? statement to see that it's short
```suggestion
  have hg4 (y z : ℝ) (hy : a ≤ y) (hz : z ≤ b) (x : ℝ) (hx : x ∈ Ioc y z) : f x = g x :=
    hg3 x (Ioc_subset_Ioc hy hz hx)
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 7]
```diff
@@ -0,0 +1,108 @@
...
+  filter_upwards [hg2, h1, h2] with x hx1 hx2 hx3 hx4
+  have hx5 : x ∈ Ioo a b := by rw [← Icc_diff_both, mem_diff]; simp [hx2, hx3, hx4]
+  have hx6 : x ∈ Ioc a b := by exact mem_Ioc_of_Ioo hx5
+  rw [mem_Icc] at hc hx4
+  apply HasDerivWithinAt.hasDerivAt (s := Ioo a b)
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: and then you can delete the two lines at the bottom
```suggestion
    refine HasDerivWithinAt.hasDerivAt (s := Ioo a b) ?_ (Ioo_mem_nhds hx5.left hx5.right)
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 8]
```diff
@@ -0,0 +1,108 @@
...
+      exact hf.left
+    · simp +contextual [g]
+  have hg2 := Integrable.ae_eq_deriv_integral hg1 c
+  have hg3 : ∀ x ∈ Ioc a b, f x = g x := by simp +contextual [g, ↓reduceIte]
+  have hg4 : ∀ (y z : ℝ), a ≤ y → z ≤ b → ∀ x ∈ Ioc y z, f x = g x := by
+    intro y z hy hz x hx
+    have : Ioc y z ⊆ Ioc a b := by gcongr
+    exact hg3 x (this hx)
+  filter_upwards [hg2, h1, h2] with x hx1 hx2 hx3 hx4
+  have hx5 : x ∈ Ioo a b := by rw [← Icc_diff_both, mem_diff]; simp [hx2, hx3, hx4]
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]:
```suggestion
  have hx5 : x ∈ Ioo a b := by simp [← Icc_diff_both, mem_diff, hx2, hx3, hx4]
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 9]
```diff
@@ -0,0 +1,108 @@
...
+  have hx6 : x ∈ Ioc a b := by exact mem_Ioc_of_Ioo hx5
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: Can now be deleted due to change below
```suggestion
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 10]
```diff
@@ -0,0 +1,108 @@
...
+  apply HasDerivWithinAt.hasDerivAt (s := Ioo a b)
+  · apply HasDerivAt.hasDerivWithinAt (s := Ioo a b) at hx1
+    rw [show f x = g x by simp only [g, ↓reduceIte, hx6] ]
+    apply HasDerivWithinAt.congr hx1; try (intro y hy; rw [mem_Ioo] at hy)
+    all_goals apply intervalIntegral.integral_congr_ae'
+    all_goals filter_upwards
+    all_goals apply hg4
+    all_goals linarith
+  · rw [mem_Ioo] at hx5
+    exact Ioo_mem_nhds hx5.left hx5.right
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]:
```suggestion
  · rw [show f x = g x by grind]
    refine hx1.hasDerivWithinAt.congr (fun y hy ↦ ?_) ?_
    all_goals apply intervalIntegral.integral_congr_ae' <;> filter_upwards <;> grind
```

**Review by vlad902 — COMMENTED** [review]
I just want to note that I am not at all familiar with this part of the library, so I have no idea about the actual contents of the proofs and what might be done there. I tried to golf down some of your proof to give you an idea of what could be done. I think there's more left there by playing with it. In particular I did a lot of inlining hypothesis, using dot notation (e.g. if foo has type Something, then doing foo.bar instead of Something.bar foo), and sometimes just using terms when it is shorter than tactics.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 11]
```diff
@@ -0,0 +1,108 @@
...
+  have hg2 := Integrable.ae_eq_deriv_integral hg1 c
+  have hg3 : ∀ x ∈ Ioc a b, f x = g x := by simp +contextual [g, ↓reduceIte]
+  have hg4 : ∀ (y z : ℝ), a ≤ y → z ≤ b → ∀ x ∈ Ioc y z, f x = g x := by
+    intro y z hy hz x hx
+    have : Ioc y z ⊆ Ioc a b := by gcongr
+    exact hg3 x (this hx)
+  filter_upwards [hg2, h1, h2] with x hx1 hx2 hx3 hx4
+  have hx5 : x ∈ Ioo a b := by rw [← Icc_diff_both, mem_diff]; simp [hx2, hx3, hx4]
+  have hx6 : x ∈ Ioc a b := by exact mem_Ioc_of_Ioo hx5
+  rw [mem_Icc] at hc hx4
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: This can now be deleted since I use `grind` below and it's more powerful at solving inequalities than linarith
```suggestion
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 12]
```diff
@@ -0,0 +1,108 @@
...
+        ENNReal.toReal_inv, sub_nonneg, hy, ENNReal.toReal_ofReal]
+      rw [intervalIntegral.integral_interval_sub_left (by apply hg2) (by apply hg2),
+          intervalIntegral.integral_of_ge hy,
+          h1 hy,
+          show (y - x)⁻¹ = -(x - y)⁻¹ by grind]
+      ring
+  · rw [Filter.tendsto_congr' (f₂ := fun y ↦ ⨍ (t : ℝ) in Icc x y, f t)]
+    · exact hx.comp (Real.tendsto_Icc_vitaliFamily_right x)
+    · filter_upwards [self_mem_nhdsWithin] with y hy
+      replace hy : x ≤ y := by rw [mem_Ioi] at hy; linarith
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]:
```suggestion
      replace hy : x ≤ y := by grind
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 13]
```diff
@@ -0,0 +1,108 @@
...
+    rw [fun (a b : ℝ) ↦ show a = b ↔ b - a = 0 by grind,
+        ← MeasureTheory.integral_diff (by simp) (by apply hg1) Ioc_subset_Icc_self]
+    simp [hxy0]
+  filter_upwards [LDT] with x hx
+  rw [hasDerivAt_iff_tendsto_slope_left_right]
+  constructor
+  · rw [Filter.tendsto_congr' (f₂ := fun y ↦ ⨍ (t : ℝ) in Icc y x, f t)]
+    · exact hx.comp (Real.tendsto_Icc_vitaliFamily_left x)
+    · filter_upwards [self_mem_nhdsWithin] with y hy
+      replace hy : y ≤ x := by rw [mem_Iio] at hy; linarith
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]:
```suggestion
      replace hy : y ≤ x := by grind
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean (hunk 5 above)
Comment (vlad902) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: Actually this simp + rw + grind could just be
```
      simp only [slope, vsub_eq_sub, smul_eq_mul, average, MeasurableSet.univ,
        Measure.restrict_apply, univ_inter, Real.volume_Icc, integral_smul_measure,
        ENNReal.toReal_inv, sub_nonneg, hy, ENNReal.toReal_ofReal,
        intervalIntegral.integral_interval_sub_left, hg2, intervalIntegral.integral_of_ge, h1]
      grind
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 14]
```diff
@@ -0,0 +1,108 @@
...
+    · exact hx.comp (Real.tendsto_Icc_vitaliFamily_right x)
+    · filter_upwards [self_mem_nhdsWithin] with y hy
+      replace hy : x ≤ y := by rw [mem_Ioi] at hy; linarith
+      simp only [slope, vsub_eq_sub, smul_eq_mul, average, MeasurableSet.univ,
+        Measure.restrict_apply, univ_inter, Real.volume_Icc, integral_smul_measure,
+        ENNReal.toReal_inv, sub_nonneg, hy, ENNReal.toReal_ofReal]
+      rw [intervalIntegral.integral_interval_sub_left (by apply hg2) (by apply hg2),
+          intervalIntegral.integral_of_le hy,
+          h1 hy,
+          show (y - x)⁻¹ = -(x - y)⁻¹ by grind]
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]:
```suggestion
      simp [slope, average, hy, intervalIntegral.integral_interval_sub_left, hg2,
          intervalIntegral.integral_of_le hy, h1]
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 15]
```diff
@@ -0,0 +1,108 @@
...
+theorem Integrable.ae_eq_deriv_integral {f : ℝ → ℝ} (hf : Integrable f volume) (c : ℝ) :
+    ∀ᵐ x, HasDerivAt (fun x => ∫ (t : ℝ) in c..x, f t) (f x) x := by
+  have hg0 : IntegrableOn f Set.univ volume := by simpa
+  have hg1 (x y : ℝ) : IntegrableOn f (Icc x y) volume := by
+    apply IntegrableOn.mono_set hg0; simp
+  have hg2 (x y : ℝ) : IntervalIntegrable f volume x y := by
+    unfold IntervalIntegrable; constructor <;> apply IntegrableOn.mono_set hg0 <;> simp
+  have hfL : LocallyIntegrable f (volume) := by
+    apply Integrable.locallyIntegrable; assumption
+  have LDT := VitaliFamily.ae_tendsto_average (vitaliFamily (volume : Measure ℝ) 1) hfL
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]:
```suggestion
  have LDT := (vitaliFamily volume 1).ae_tendsto_average hf.locallyIntegrable
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 16]
```diff
@@ -0,0 +1,108 @@
...
+  · exact uIcc_comm b a ▸ @this f b a c hf.symm (uIcc_comm a b ▸ hc) (by linarith)
+  simp_rw [uIcc_of_le hab] at hc ⊢
+  have h1 : ∀ᵐ x, x ≠ a := by simp [ae_iff, measure_singleton]
+  have h2 : ∀ᵐ x, x ≠ b := by simp [ae_iff, measure_singleton]
+  let g (x : ℝ) := if x ∈ Ioc a b then f x else 0
+  have hg1 : Integrable g volume := by
+    apply MeasureTheory.IntegrableOn.integrable_of_forall_notMem_eq_zero (s := Ioc a b)
+    · rw [MeasureTheory.integrableOn_congr_fun (g := f) (by simp +contextual [g, EqOn]) (by simp)]
+      exact hf.left
+    · simp +contextual [g]
```
Comment (vlad902) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]:
```suggestion
  have hg1 : Integrable g volume :=
    integrableOn_congr_fun (by grind [EqOn]) (by simp) |>.mpr hf.left
      |>.integrable_of_forall_notMem_eq_zero (by grind)
```

**Comment by vlad902** [comment]
OK I made so many changes it's hard to look at the individual diffs. I had some more changes in the end, so I simply include the final versions below:
```lean
/-- The interval version of the *Lebesgue Differentiation Theorem*: if `f : ℝ → ℝ` is integrable and
`c : ℝ`, then for almost every `x`, the derivative of `∫ (t : ℝ) in c..x, f t` at `x`
is equal to `f x`. -/
theorem Integrable.ae_eq_deriv_integral {f : ℝ → ℝ} (hf : Integrable f volume) (c : ℝ) :
    ∀ᵐ x, HasDerivAt (fun x => ∫ (t : ℝ) in c..x, f t) (f x) x := by
  have hg (x y : ℝ) : IntervalIntegrable f volume x y := by
    have : IntegrableOn f Set.univ volume := by simpa
    constructor <;> simp [this.mono_set]
  have LDT := (vitaliFamily volume 1).ae_tendsto_average hf.locallyIntegrable
  have {a b : ℝ} (_ : a ≤ b) : ∫ (t : ℝ) in Ioc a b, f t = ∫ (t : ℝ) in Icc a b, f t :=
    integral_Icc_eq_integral_Ioc (x := a) (y := b) (X := ℝ) |>.symm
  filter_upwards [LDT] with x hx
  rw [hasDerivAt_iff_tendsto_slope_left_right]
  constructor
  · refine Filter.tendsto_congr' (f₂ := fun y ↦ ⨍ (t : ℝ) in Icc y x, f t) ?_ |>.mpr
      (hx.comp x.tendsto_Icc_vitaliFamily_left)
    filter_upwards [self_mem_nhdsWithin] with y hy
    replace hy : y ≤ x := by grind
    simp only [slope, vsub_eq_sub, smul_eq_mul, average, MeasurableSet.univ,
      Measure.restrict_apply, univ_inter, Real.volume_Icc, integral_smul_measure,
      ENNReal.toReal_inv, sub_nonneg, hy, ENNReal.toReal_ofReal,
      intervalIntegral.integral_interval_sub_left, hg, intervalIntegral.integral_of_ge, this]
    grind
  · refine Filter.tendsto_congr' ?_ |>.mpr (hx.comp x.tendsto_Icc_vitaliFamily_right)
    filter_upwards [self_mem_nhdsWithin] with y hy
    replace hy : x ≤ y := by grind
    simp [slope, average, intervalIntegral.integral_interval_sub_left, hg,
        intervalIntegral.integral_of_le, hy, this]

/-- The interval version of the *Lebesgue Differentiation Theorem*: if `f : ℝ → ℝ` is integrable on
`uIoc a b`, and `c ∈ uIoc a b`, then for almost every `x ∈ uIcc a b`, the derivative of
`∫ (t : ℝ) in c..x, f t` at `x` is equal to `f x`. -/
theorem IntervalIntegrable.ae_eq_deriv_integral {f : ℝ → ℝ} {a b c : ℝ}
    (hf : IntervalIntegrable f volume a b) (hc : c ∈ uIcc a b) :
    ∀ᵐ x, x ∈ uIcc a b → HasDerivAt (fun x => ∫ (t : ℝ) in c..x, f t) (f x) x := by
  wlog hab : a ≤ b
  · exact uIcc_comm b a ▸ @this f b a c hf.symm (uIcc_comm a b ▸ hc) (by linarith)
  rw [uIcc_of_le hab] at hc ⊢
  have h₁ : ∀ᵐ x, x ≠ a := by simp [ae_iff, measure_singleton]
  have h₂ : ∀ᵐ x, x ≠ b := by simp [ae_iff, measure_singleton]
  let g (x : ℝ) := if x ∈ Ioc a b then f x else 0
  have hg : Integrable g volume :=
    integrableOn_congr_fun (by grind [EqOn]) (by simp) |>.mpr hf.left
      |>.integrable_of_forall_notMem_eq_zero (by grind)
  filter_upwards [Integrable.ae_eq_deriv_integral hg c, h₁, h₂] with x hx1 hx2 hx3 hx4
  refine HasDerivWithinAt.hasDerivAt (s := Ioo a b) ?_ <| Ioo_mem_nhds (by grind) (by grind)
  rw [show f x = g x by grind]
  refine hx1.hasDerivWithinAt.congr (fun y hy ↦ ?_) ?_
  all_goals apply intervalIntegral.integral_congr_ae' <;> filter_upwards <;> grind
```

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 17]
```diff
@@ -0,0 +1,72 @@
...
+-/
+
+open MeasureTheory Set Filter Function IsUnifLocDoublingMeasure
+
+open scoped Topology
+
+/-- The interval version of the *Lebesgue Differentiation Theorem*: if `f : ℝ → ℝ` is integrable and
+`c : ℝ`, then for almost every `x`, the derivative of `∫ (t : ℝ) in c..x, f t` at `x`
+is equal to `f x`. -/
+theorem Integrable.ae_eq_deriv_integral {f : ℝ → ℝ} (hf : Integrable f volume) (c : ℝ) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: Could you use `LocallyIntegrable` instead of `Integrable`? Asking for integrability at infinity looks irrelevant here. If it's convenient, you can deduce the locally integrable version from the integrable or the intervalIntegrable version.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 18]
```diff
@@ -0,0 +1,72 @@
+/-
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean:1]: The name of the file doesn't look right: missing "n".

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean [hunk 19]
```diff
@@ -0,0 +1,72 @@
...
+import Mathlib.Analysis.Calculus.Deriv.Basic
+import Mathlib.Analysis.Calculus.Deriv.Slope
+import Mathlib.MeasureTheory.Covering.OneDim
+import Mathlib.MeasureTheory.Covering.DensityTheorem
+import Mathlib.MeasureTheory.Covering.Differentiation
+import Mathlib.MeasureTheory.Covering.Vitali
+import Mathlib.MeasureTheory.Integral.IntervalIntegral.Basic
+import Mathlib.MeasureTheory.Integral.Lebesgue.Basic
+import Mathlib.MeasureTheory.Measure.Lebesgue.EqHaar
+import Mathlib.MeasureTheory.Measure.MeasureSpace
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: Could you reduce a little bit this import list? Many of these files are transitively imported by other ones, hence not needed. (You can try to remove the lines one by one, and see which ones can be ommited).

**Review by sgouezel — COMMENTED** [review]
Thanks!

**Comment by fpvandoorn** [comment]
If you think you have addressed all the review comments, please remove the label `awaiting-author` by writing a comment with the text `-awaiting-author`.

**Comment by zhuyizheng** [comment]
-awaiting-author

**Comment by sgouezel** [comment]
Could you also resolve the conversations (using the `Resolve conversation` button) for which you think you have answered properly and no further discussion is needed? This helps to spot the places where there is still something to be done.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean (hunk 19 above)
Comment (zhuyizheng) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: done

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean (hunk 17 above)
Comment (zhuyizheng) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean]: done

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean (hunk 18 above)
Comment (zhuyizheng) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferetiationThm.lean:1]: done

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean [hunk 20]
```diff
@@ -0,0 +1,66 @@
...
+Authors: Yizheng Zhu
+-/
+import Mathlib.Analysis.Calculus.Deriv.Slope
+import Mathlib.MeasureTheory.Covering.OneDim
+import Mathlib.MeasureTheory.Integral.IntervalIntegral.Basic
+
+/-!
+# Lebesgue Differentiation Theorem (Interval Version)
+
+This file proves the interval version of the Lebesgue Differentiation Theorem.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean]: Could you expand the file-level docstring, with pointers to the main theorems and quick explanations of the content of these?

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean [hunk 21]
```diff
@@ -0,0 +1,66 @@
...
+-/
+
+open MeasureTheory Set Filter Function IsUnifLocDoublingMeasure
+
+open scoped Topology
+
+/-- The interval version of the *Lebesgue Differentiation Theorem*: if `f : ℝ → ℝ` is locally
+integrable and `c : ℝ`, then for almost every `x`, the derivative of `∫ (t : ℝ) in c..x, f t` at
+`x` is equal to `f x`. -/
+theorem LocallyIntegrable.ae_eq_deriv_integral {f : ℝ → ℝ} (hf : LocallyIntegrable f volume)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean]:
```suggestion
theorem LocallyIntegrable.ae_hasDerivAt_integral {f : ℝ → ℝ} (hf : LocallyIntegrable f volume)
```
It's better to use the same symbols in the lemma name as in the statement, for coherence and ease of discoverability.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean [hunk 22]
```diff
@@ -0,0 +1,66 @@
...
+    (c : ℝ) :
+    ∀ᵐ x, HasDerivAt (fun x => ∫ (t : ℝ) in c..x, f t) (f x) x := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean]: Here, the ae depends on `c`. There is a slightly stronger version, which reads, for ae x, for all c, ...
It's easy to deduce the latter from the former, but I wonder if your proof doesn't already give the stronger statement.

Same thing below.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean [hunk 23]
```diff
@@ -0,0 +1,66 @@
...
+  · refine Filter.tendsto_congr' ?_ |>.mpr (hx.comp x.tendsto_Icc_vitaliFamily_right)
+    filter_upwards [self_mem_nhdsWithin] with y hy
+    replace hy : x ≤ y := by grind
+    simp [slope, average, intervalIntegral.integral_interval_sub_left, hg,
+        intervalIntegral.integral_of_le, hy, this]
+
+/-- The interval version of the *Lebesgue Differentiation Theorem*: if `f : ℝ → ℝ` is integrable on
+`uIoc a b`, and `c ∈ uIoc a b`, then for almost every `x ∈ uIcc a b`, the derivative of
+`∫ (t : ℝ) in c..x, f t` at `x` is equal to `f x`. -/
+theorem IntervalIntegrable.ae_eq_deriv_integral {f : ℝ → ℝ} {a b c : ℝ}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean]:
```suggestion
theorem IntervalIntegrable.ae_hasDerivAt_integral {f : ℝ → ℝ} {a b c : ℝ}
```

**Comment by zhuyizheng** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean [hunk 24]
```diff
@@ -0,0 +1,76 @@
...
+
+This file proves the interval version of the Lebesgue Differentiation Theorem. There are two
+versions in this file.
+
+* `LocallyIntegrable.ae_hasDerivAt_integral` is the global version. It states that if `f : ℝ → ℝ`
+is locally integrable, then for almost every `x`, for any `c : ℝ`, the derivative of
+`∫ (t : ℝ) in c..x, f t` at `x` is equal to `f x`.
+
+* `IntervalIntegrable.ae_hasDerivAt_integral` is the local version. It states that if `f : ℝ → ℝ`
+is integrable on `uIoc a b`, then for almost every `x ∈ uIcc a b`, for any `c ∈ uIoc a b`, the
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean]:
```suggestion
is integrable on `uIcc a b`, then for almost every `x ∈ uIcc a b`, for any `c ∈ uIcc a b`, the
```
Better use the same interval everywhere, otherwise the reader will wonder if there is a deep reason for the discrepancy.

Comment (zhuyizheng) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/LebesgueDifferentiationThm.lean]: I will use "interval integrable on `a..b`" (instead of `uIoc a b` or `uIcc a b`) to match theorem name and use `uIcc a b` for `x` and `c` because they are the strongest forms.

**Comment by sgouezel** [comment]
bors r+
Thanks!
